US07820704B2
2-({[4-(4-Isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-methyl)-benzonitrile was prepared by stirring (4-(-isopropyl-phenyl)-thiazol-2-yl)-thiophen-2-ylmethyl-amine (100 mg, 0.31 mmol), NaH (26 mg, 60%, 0.62 mmol), and 2-bromomethylbenzonitrile (72 mg, 0.372 mmol) in THF (50 mL) at room temperature. After 3 h, the reaction mixture was concentrated under high vacuum. The crude product used without purification.

reactant | (4-(-isopropyl-phenyl)-thiazol-2-yl)-thiophen-2-ylmethyl-amine | 0.31 mmol, 100 mg | C(C)(C)C1=C(C=CC=C1)C=1N=C(SC1)NCC=1SC=CC1 | C17H18N2S2
reactant | NaH | 0.62 mmol, 26 mg | [H-].[Na+]
reactant | 2-bromomethylbenzonitrile | 0.372 mmol, 72 mg | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-({[4-(4-Isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-methyl)-benzonitrile | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N(CC=1SC=CC1)CC1=C(C#N)C=CC=C1 | C25H23N3S2
